US06632810B2
Synthesis of N,N′-bis[(4,5,6-trimethoxybenzimidazol-2-yl)methyl]homopiperazine:
2-Chloromethyl-4,5,6-trimethoxybenzimidazole (200 mg) and homopiperazine (30 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 2-Chloromethyl-4,5,6-trimethoxybenzimidazole | 200 mg | ClCC=1NC2=C(N1)C=C(C(=C2OC)OC)OC | C11H13ClN2O3
reactant | homopiperazine | 30 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[(4,5,6-trimethoxybenzimidazol-2-yl)methyl]homopiperazine | COC1=C(C(=CC=2N=C(NC21)CN2CCN(CCC2)CC=2NC1=C(N2)C=C(C(=C1OC)OC)OC)OC)OC | C27H36N6O6
